.title kicad schematic

.include BC547B.lib
r1 net-_u_ic1--_ net-_q1-c_ 1k
q1 net-_q1-c_ gnd  
v1 vcb gnd  dc 0
r2 net-_q1-e_ ie 1k
i1 ie gnd  dc 0
.dc v1 -1e-00 5e-00 0.02e-00 i1 -1e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
