.title kicad schematic

r6 out gnd 1k
c3 out net-_q1-c_ 40u
r4 net-_q1-e_ gnd 1.5k
c2 gnd net-_q1-e_ 100u
r3 net-_q1-b_ gnd 50k
c1 net-_c1-pad1_ net-_q1-b_ 40u
r1 net-_c1-pad1_ in 50
vv2 in gnd  dc 0
r2 net-_v1-+_ net-_q1-b_ 200k
r5 net-_v1-+_ net-_q1-c_ 2k
vv1 net-_v1-+_ gnd
zq1 net-_q1-c_ net-_q1-b_ net-_q1-e_ __q1
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
