* /home/fossee/esim-workspace/jk_flipflop/jk_flipflop.cir

v1 j gnd  dc 5
v3 k gnd  dc 0
r1  out gnd 1k
r2  nout gnd 1k
* u2  j plot_v1
* u1  clk plot_v1
* u3  k plot_v1
* u4  out plot_v1
* u5  nout plot_v1
* u6  j clk k net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ adc_bridge_3
* u7  net-_u7-pad1_ net-_u7-pad2_ out nout dac_bridge_2
* u9  net-_u6-pad4_ net-_u6-pad6_ net-_u6-pad5_ net-_u8-pad2_ net-_u10-pad2_ net-_u7-pad1_ net-_u7-pad2_ d_jkff
* u8  net-_u8-pad1_ net-_u8-pad2_ adc_bridge_1
* u10  net-_u10-pad1_ net-_u10-pad2_ adc_bridge_1
v4  net-_u8-pad1_ gnd 0
v5  net-_u10-pad1_ gnd 0
v2  clk gnd pulse(0 5 1m 1m 1m 20 40)
a1 [j clk k ] [net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ ] u6
a2 [net-_u7-pad1_ net-_u7-pad2_ ] [out nout ] u7
a3 net-_u6-pad4_ net-_u6-pad6_ net-_u6-pad5_ net-_u8-pad2_ net-_u10-pad2_ net-_u7-pad1_ net-_u7-pad2_ u9
a4 [net-_u8-pad1_ ] [net-_u8-pad2_ ] u8
a5 [net-_u10-pad1_ ] [net-_u10-pad2_ ] u10
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u9 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(j)
plot v(clk)
plot v(k)
plot v(out)
plot v(nout)
.endc
.end
