* Subcircuit 3_nor
.subckt 3_nor net-_d101-pad2_ net-_d102-pad2_ net-_d105-pad2_ net-_d106-pad2_ net-_d107-pad2_ net-_d108-pad2_ net-_d109-pad1_ net-_d112-pad2_ net-_d109-pad2_ net-_d110-pad2_ net-_d111-pad2_ net-_d104-pad2_ net-_d103-pad2_ net-_r113-pad1_ 
.title kicad schematic
r112 net-_qn116-pad1_ net-_r113-pad1_ 130
qn113 net-_qn112-pad1_ net-_qn109-pad1_ net-_qn112-pad3_ npn
r110 net-_qn112-pad1_ net-_r113-pad1_ 1.6k
qn111 net-_qn111-pad1_ net-_qn111-pad2_ net-_d107-pad2_ npn
qn110 net-_qn110-pad1_ net-_qn110-pad2_ net-_d106-pad2_ npn
r108 net-_r113-pad1_ net-_qn110-pad2_ 4k
qn115 net-_d108-pad2_ net-_qn112-pad3_ net-_d109-pad1_ npn
d108 net-_d108-pad1_ net-_d108-pad2_ diode
d109 net-_d109-pad1_ net-_d109-pad2_ diode
r109 net-_r113-pad1_ net-_qn111-pad2_ 4k
qn116 net-_qn116-pad1_ net-_qn112-pad1_ net-_d108-pad1_ npn
qn112 net-_qn112-pad1_ net-_qn111-pad1_ net-_qn112-pad3_ npn
r111 net-_d109-pad1_ net-_qn112-pad3_ 1k
qn114 net-_qn112-pad1_ net-_qn110-pad1_ net-_qn112-pad3_ npn
r105 net-_d109-pad1_ net-_qn104-pad3_ 1k
r106 net-_qn108-pad1_ net-_r113-pad1_ 130
qn109 net-_qn109-pad1_ net-_qn109-pad2_ net-_d105-pad2_ npn
r107 net-_r113-pad1_ net-_qn109-pad2_ 4k
d105 net-_d109-pad1_ net-_d105-pad2_ diode
d104 net-_d104-pad1_ net-_d104-pad2_ diode
qn108 net-_qn108-pad1_ net-_qn104-pad1_ net-_d104-pad1_ npn
r104 net-_qn104-pad1_ net-_r113-pad1_ 1.6k
qn105 net-_qn104-pad1_ net-_qn101-pad1_ net-_qn104-pad3_ npn
d106 net-_d109-pad1_ net-_d106-pad2_ diode
d107 net-_d109-pad1_ net-_d107-pad2_ diode
qn106 net-_qn104-pad1_ net-_qn102-pad1_ net-_qn104-pad3_ npn
qn107 net-_d104-pad2_ net-_qn104-pad3_ net-_d109-pad1_ npn
d110 net-_d109-pad1_ net-_d110-pad2_ diode
qn118 net-_qn118-pad1_ net-_qn118-pad2_ net-_d110-pad2_ npn
r113 net-_r113-pad1_ net-_qn117-pad2_ 4k
r114 net-_r113-pad1_ net-_qn118-pad2_ 4k
qn117 net-_qn117-pad1_ net-_qn117-pad2_ net-_d109-pad2_ npn
qn121 net-_qn120-pad1_ net-_qn117-pad1_ net-_qn121-pad3_ npn
r115 net-_r113-pad1_ net-_qn119-pad2_ 4k
d111 net-_d109-pad1_ net-_d111-pad2_ diode
qn119 net-_qn119-pad1_ net-_qn119-pad2_ net-_d111-pad2_ npn
qn120 net-_qn120-pad1_ net-_qn119-pad1_ net-_qn121-pad3_ npn
qn122 net-_qn120-pad1_ net-_qn118-pad1_ net-_qn121-pad3_ npn
r117 net-_d109-pad1_ net-_qn121-pad3_ 1k
r118 net-_qn124-pad1_ net-_r113-pad1_ 130
qn124 net-_qn124-pad1_ net-_qn120-pad1_ net-_d112-pad1_ npn
d112 net-_d112-pad1_ net-_d112-pad2_ diode
r116 net-_qn120-pad1_ net-_r113-pad1_ 1.6k
qn123 net-_d112-pad2_ net-_qn121-pad3_ net-_d109-pad1_ npn
r102 net-_r113-pad1_ net-_qn102-pad2_ 4k
qn102 net-_qn102-pad1_ net-_qn102-pad2_ net-_d102-pad2_ npn
r103 net-_r113-pad1_ net-_qn103-pad2_ 4k
d102 net-_d109-pad1_ net-_d102-pad2_ diode
qn103 net-_qn103-pad1_ net-_qn103-pad2_ net-_d103-pad2_ npn
d103 net-_d109-pad1_ net-_d103-pad2_ diode
qn104 net-_qn104-pad1_ net-_qn103-pad1_ net-_qn104-pad3_ npn
d101 net-_d109-pad1_ net-_d101-pad2_ diode
r101 net-_r113-pad1_ net-_qn101-pad2_ 4k
qn101 net-_qn101-pad1_ net-_qn101-pad2_ net-_d101-pad2_ npn
* Control Statements

.ends 3_nor