* C:\FOSSEE\eSim\ClassABAmplifier_eSim\ClassABAmplifier_eSim.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 4/2/2026 8:13:57 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Q2  GND Net-_D2-Pad2_ VOUT BC557		
R1  Net-_Q1-Pad1_ Net-_D1-Pad1_ 10k		
D1  Net-_D1-Pad1_ CAPOUT eSim_Diode		
D2  CAPOUT Net-_D2-Pad2_ eSim_Diode		
R2  Net-_D2-Pad2_ GND 10k		
C1  CAPOUT INPUT 100u		
C2  cout VOUT 100u		
v2  Net-_Q1-Pad1_ GND 12v		
v1  INPUT GND sine		
U2  CAPOUT plot_v1		
U3  VOUT plot_v1		
U1  INPUT plot_v1		
U4  cout current plot_i2		
R3  current GND 47		
U5  cout plot_v1		
Q1  Net-_Q1-Pad1_ Net-_D1-Pad1_ VOUT BC547		

.end
