* C:\Users\hp\Desktop\Esim\Design_of_Xor_gate_using_Nand_gates\Design_of_Xor_gate_using_Nand_gates.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10-Nov-21 10:44:01

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U4  Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U4-Pad3_ d_nand		
U5  Net-_U3-Pad3_ Net-_U4-Pad3_ Net-_U5-Pad3_ d_nand		
U6  Net-_U4-Pad3_ Net-_U3-Pad4_ Net-_U6-Pad3_ d_nand		
U7  Net-_U5-Pad3_ Net-_U6-Pad3_ Net-_U7-Pad3_ d_nand		
U3  A B Net-_U3-Pad3_ Net-_U3-Pad4_ adc_bridge_2		
v1  A GND pulse		
v2  B GND pulse		
U8  Net-_U7-Pad3_ Q dac_bridge_1		
U1  A plot_v1		
U2  B plot_v1		
U9  Q plot_v1		
R1  Q GND 1k		

.end
